US04031221
A solution of 2.9 g of 1-benzyl-3-(p-tolyloxy) piperidine in 30 ml. of 95% ethanol is added to 0.42 g of 10% Pd-C, and hydrogenated at about 50° C. for 3 hours. Then the reaction mixture is cooled to ambient temperature, the 10% Pd-C is filtered off, and the ethanol is removed leaving a yellow oil of 3-(p-tolyloxy)piperidine.

reactant | 1-benzyl-3-(p-tolyloxy) piperidine | 2.9 g | C(C1=CC=CC=C1)N1CC(CCC1)OC1=CC=C(C=C1)C | C19H23NO
catalyst | Pd-C | 0.42 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-(p-tolyloxy)piperidine | C1(=CC=C(C=C1)OC1CNCCC1)C | C12H17NO
